Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins / Tequin / amoxicillin / NSAIDS (Non-Steroidal 
Anti-Inflammatory Drug) / aspirin
 
Attending: ___.
 
Major Surgical or Invasive Procedure:
None

attach
 
Pertinent Results:
LABS: WBC 11.5, hgb 14.8, Cr 0.9

Imaging: CT neck: Left parotiditis with reactive lymph nodes. No
drainable fluid collection visualized. 
I personally reviewed the CT neck and my interpretation is: Left
parotid inflammation with swelling of surrounding soft tissue. 
prior records reviewed: history of roux en y, gastric ulcer. 

Discharge Labs:

___ 07:10AM BLOOD WBC-6.0 RBC-4.52 Hgb-13.8 Hct-42.4 MCV-94 
MCH-30.5 MCHC-32.5 RDW-12.5 RDWSD-43.3 Plt ___
___ 07:10AM BLOOD Plt ___
___ 07:10AM BLOOD Glucose-74 UreaN-7 Creat-0.9 Na-142 K-4.7 
Cl-105 HCO3-29 AnGap-8*
___ 07:10AM BLOOD Mg-2.0
 
Brief Hospital Course:
#Parotitis
#facial swelling
#sepsis- She presented with ___ SIRS criteria (fever, 
leukocytosis) with source of infection from parotitis on CT 
scan. She presented with 3 days of L facial swelling, not 
improving with outpatient PO doxycycline.  CT showed parotitis 
with lymphadenopathy with no drainable fluid collections. 
Unclear etiology (viral vs. bacteria). Blood cultures ___ have 
shown NGTD. Had received MMR as a child. Seen by OMFS who 
advised IV antibiotics with lemon wedeges. She was trialed on 
unasyn with no difficulties (despite reported PCN allergy). She 
was discharged on augmentin BID  for another 10 days per ___ 
recs. On discharge her pain and swelling had improved. Her 
leukocytosis and fever resolved. She was discharged with 
oxycodone (5mg) #10 tabs to help with pain on discharge. 

#s/p roux en y bypass- continued vitamins

#GERD-continued omeprazole

#asthma: continued albuterol

#Anxiety: continued home Lexapro 

#restless leg: continued home trazodone 

Discharge Physical Exam:
Vitals: temp 98.1; BP 120/77; HR 64; RR 18; O2 95% RA
GENERAL: Alert and in no apparent distress, facial swelling. 
EYES: Anicteric, pupils equally round
ENT: Left sided facial swelling from mandible extending down to
neck. tender.  minimal erythema receding from marked boarder. 
no Oropharynx abnormality. 
CV: Heart regular, no murmur, no S3, no S4.  No JVD.
RESP: Lungs clear to auscultation with good air movement 
bilaterally.  Breathing is non-labored
GI: Abdomen soft, non-distended, non-tender to palpation.  Bowel 
sounds present.  No HSM
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs, sensation to light touch grossly
intact throughout
PSYCH: pleasant, appropriate affect

Transitional Issues:
[] f/u with OMFS as an outpatient, they will call to schedule an 
appointment

 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
further investigation.
1. Omeprazole 20 mg PO BID 
2. Albuterol Inhaler 2 PUFF IH Q4H:PRN SOB 
3. Cyanocobalamin 500 mcg PO DAILY 
4. Vitamin D 1000 UNIT PO DAILY 
5. Escitalopram Oxalate Dose is Unknown  PO DAILY 
6. TraZODone Dose is Unknown  PO QHS:PRN insomnia 
7. Propranolol Dose is Unknown  PO Q3H:PRN anxiety 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q6H:PRN Pain - Mild/Fever 
RX *acetaminophen [Pain Relief Extra Strength] 500 mg 2 
tablet(s) by mouth every eight (8) hours Disp #*30 Tablet 
Refills:*0 
2.  Amoxicillin-Clavulanic Acid ___ mg PO Q12H 
RX *amoxicillin-pot clavulanate [Augmentin] 875 mg-125 mg 1 
tablet(s) by mouth twice a day Disp #*20 Tablet Refills:*0 
3.  Lactobacillus acidophilus 1 mg oral DAILY 
RX *Lactobacillus acidophilus [Probiotic] 10 billion cell 1 
capsule(s) by mouth once a day Disp #*10 Capsule Refills:*0 
4.  OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN Pain - 
Severe 
RX *oxycodone 5 mg 1 tablet(s) by mouth every four (4) hours 
Disp #*10 Tablet Refills:*0 
5.  Escitalopram Oxalate 5 mg PO DAILY  
6.  TraZODone 25 mg PO QHS:PRN insomnia, restless leg  
7.  Albuterol Inhaler 2 PUFF IH Q4H:PRN SOB  
8.  Cyanocobalamin 500 mcg PO DAILY  
9.  Omeprazole 20 mg PO BID  
10.  Vitamin D 1000 UNIT PO DAILY  
11. HELD- Propranolol Dose is Unknown  PO Q3H:PRN anxiety  This 
medication was held. Do not restart Propranolol until discharge

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Parotitis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to the hospital due to an infection of your 
salivary glands called parotitis. We treated this with an 
antibiotic and it improved. On discharge from the hospital, you 
should continue taking augmentin for another 10 days.

Please follow up with OMFS who will call you to schedule on 
___.

Best of luck in your recovery,
Your ___ care team
 
Followup Instructions:
___